US06441044B1
c) 2,2-Dichloro-1-ethyl-3-methylcyclopropane-1-carbonyl Chloride
To generate the acyl chloride, 19.7 g (0.1 mol) of 2,2-dichloro-1-ethyl-3-methylcyclopropane-1-carboxylic acid were dissolved in toluene, and 36.9 g (0.31 mol) of thionyl chloride were added. After a reaction time of 5 hours at reflux, the mixture was stirred at room temperature for a further 14 hours. The reaction solution was concentrated using water pump vacuum. 22 g of a brown liquid were isolated as crude product. This was not purified prior to further use.

reactant | 2,2-dichloro-1-ethyl-3-methylcyclopropane-1-carboxylic acid | 0.1 mol, 19.7 g | ClC1(C(C1C)(C(=O)O)CC)Cl | C7H10Cl2O2
reactant | thionyl chloride | 0.31 mol, 36.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-Dichloro-1-ethyl-3-methylcyclopropane-1-carbonyl Chloride | 22 g | ClC1(C(C1C)(C(=O)Cl)CC)Cl | C7H9Cl3O
